US05262571
The next step in the synthesis was the addition of cyclohexene oxide to α-cumylpotassium to produce trans-2-cumylcyclohexanol. Dropwise addition of 105 mL (1.0 mol) of cyclohexene oxide (available from Lancaster Synthesis, Ltd., Windham, N.H., U.S.A.) followed; as before, the cyclohexene oxide addition was controlled so that the bath temperature did not rise above 30° C. As cyclohexene oxide was added, the reaction mixture thinned and became black. After this addition, the mixture was stirred for 3 hours. The reaction flask was cooled in an ice bath and 750 mL of saturated aqueous ammonium chloride was added slowly to the reaction mixture, which changed in color from light brown to bright orange to light brown again; concurrently, a white precipitate that had formed during the initial stages of the addition dissolved.

reactant | cyclohexene oxide | C12C(CCCC1)O2 | C6H10O
reactant | α-cumylpotassium | C(C)(C)(C1=CC=CC=C1)[K]
product | racemic trans-2-(1-methyl-1-phenylethyl)cyclohexanol | CC(C)(C1=CC=CC=C1)[C@H]1[C@@H](CCCC1)O | C15H22O
